data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(Cl)c(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1cc(Cl)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1cc(Cl)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1cc(Cl)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1cc(Cl)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(Cl)ccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(Cl)ccc2Cl)C(=N)C=C1", "products": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1cc(Cl)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(Cl)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(Cl)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(Cl)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(Cl)c2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(Cl)c2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(Cl)c2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "CCc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "CCc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1CC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1CC", "products": "CCc1ccccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CC)c([Si](C)(C)C)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(c(Cl)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)CC1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(C(=O)C2C3CCC2C3)c1C", "products": "COc1cccc([C]([O])C2C3CCC2C3)c1C"}, {"reactants": "COc1cccc([C]([O])C2C3CCC2C3)c1C", "products": "COc1cccc(C([O])=CC2C[CH]CC2)c1C"}, {"reactants": "COc1cccc(C([O])=CC2C[CH]CC2)c1C", "products": "COc1cccc(C(O)=CC2C=CCC2)c1C"}, {"reactants": "COc1cccc(C(O)=CC2C=CCC2)c1C", "products": "COc1cccc(C(=O)CC2C=CCC2)c1C"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OC)C2(Cl)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OC)C(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)C(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OC)C(Cl)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)C(Cl)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OC)C(Cl)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)cc1OC", "products": "COc1ccc([C]([O])C2C3CCC2C3)cc1OC"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)cc1OC", "products": "COc1ccc(C([O])=CC2C[CH]CC2)cc1OC"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)cc1OC", "products": "COc1ccc(C(O)=CC2C=CCC2)cc1OC"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)cc1OC", "products": "COc1ccc(C(=O)CC2C=CCC2)cc1OC"}]}
